Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Lipitor
 
Attending: ___.
 
Chief Complaint:
Shortness of breath 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
A ___ year old male with history of HTN, CAD, ischemic 
cardiomyopathy LVEF 30%, mild AS (valve area 1.2-1.9cm2), renal 
transplant, is admitted with progressive dyspnea. He reports 
that for the past two weeks he has had decreased exercise 
tolerance, previously able to run 30 minutes on tredmill 
starting yesterday he became short of breath with walking 1.5 
blocks. chief complaint of DOE. Has cardiomyopathy ef 30% and 
aortic stenosis. He notes 5lb weight gain over the past week. He 
tries to maintain a low sodium diet however last weekend he had 
fish soup. He notes orthopnea and PND in the last week.  
..  
In the ED, initial vitals were 98.4 80 167/104 18 100% RA  
Labs and imaging significant for BNP 6359, they noted R>L lower 
ext edma and checked lower extermity dopplers which were 
negative for DVT. Given history of hypotension with furosemide, 
diruesis was held until arrival to the floor. Vitals on transfer 
were 151/99 81 100% ra.  
.  
On arrival to the floor, he reports breathing is comfortable, 
denies cough, dyspnea, chest pain. N/V/D. Denies fever/chills.  
.  
On review of systems, he denies any prior history of stroke, 
TIA, pulmonary embolism, cough, hemoptysis. All of the other 
review of systems were negative.  
.  
Cardiac review of systems is notable for absence of chest pain, 
palpitations, syncope or presyncope.   

 
Past Medical History:
1. CARDIAC RISK FACTORS: (+)Diabetes, (+)Dyslipidemia, (+) 
Hypertension  
2. CARDIAC HISTORY:  
-CABG: None  
-PERCUTANEOUS CORONARY INTERVENTIONS: per Dr. ___ 
___); Stress in ___ w/ stent to LCX in ___.  
-PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY:  
1. DM, insulin dependent (Type I)- seen at ___  
2. High cholesterol  
3. Hypertension  
4. Renal transplant ___  
5. Bilateral TMA for peripheral vascular disease and 
complications of neuropathy/trauma.  
6. NQW MI ___ years ago (per Dr. ___ ___); 
Stress in ___ w/ stent to LCX in ___.  
7. LBBB  
8. Paroxysmal atrial fibrillation, noted in our records since 
early ___ (dx ___ years ago per pt), not on coumadin due to 
falls  
9. Ischemic cardiomyopathy: EF 30% in ___  
10. Mild Aortic Stenosis (valve area 1.2-1.9cm2)  
11. Deep Vein Thrombosis  
12. Left facial droop since childhood  

 
Social History:
___
Family History:
Father w/ DM at age ___. Mother w/ breast CA.  No family history 
of early MI, arrhythmia, cardiomyopathies, or sudden cardiac 
death; otherwise non-contributory.  

 
Physical Exam:
On admission
VS: T 97.7, BP 159/90, HR 87, RR 18, O2 sat 100% RA  
GENERAL: Overweight male appearing comfortable and in NAD  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK: Supple with non elevated JVP  
CARDIAC: Crecendo/decrendo ___ systolic murmur radiating to 
carotids, RR, normal S1, S2.  
LUNGS: Bi basilar rales, equal airentry ___. Right mobile, well 
circumscribed subcutaneous nodule measuring 3cm diameter.  
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES: S/P ___ amputation of toes. Edema to mid calf R>L.  
SKIN: No stasis dermatitis.  
NEURO: Left facial droop, CN II-VI and VIII-XII intact ___.  
PULSES:  
Right: Carotid 2+ DP 2+ ___ 2+  
Left: Carotid 2+ DP 2+ ___ 2+  
.
At discharge
VS: T___.___.7 BP:159/90 HR:87 RR18 O2 sat: 100% RA
I/O NR/1575
GENERAL: Overweight male appearing comfortable and in NAD
HEENT: NCAT. Sclera anicteric. PERRL, EOMI.
NECK: Supple with non elevated JVP
CARDIAC: Crecendo/decrendo ___ systolic murmur radiating to 
carotids, RR, normal S1, S2.
LUNGS: Bi basilar rales, equal airentry ___.
BACK: Right sided mobile, well circumscribed subcutaneous nodule 
measuring 3cm diameter.
ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.
EXTREMITIES: S/P ___ amputation of toes. Edema to mid calf R>L.
SKIN: No stasis dermatitis.
NEURO: Left facial droop, CN II-VI and VIII-XII intact ___.
PULSES:
Right: Carotid 2+ DP 2+ ___ 2+
Left: Carotid 2+ DP 2+ ___ 2+ 
 
Pertinent Results:
On admission:
___ 01:00PM BLOOD WBC-7.7 RBC-4.93 Hgb-14.6 Hct-44.5 MCV-90 
MCH-29.6 MCHC-32.8 RDW-14.7 Plt ___
___ 02:37PM BLOOD ___ PTT-31.4 ___
___ 01:00PM BLOOD Glucose-195* UreaN-23* Creat-1.2 Na-135 
K-4.9 Cl-100 HCO3-26 AnGap-14
___ 06:40AM BLOOD Phos-3.2 Mg-2.1
___ 01:00PM BLOOD proBNP-6359*
___ 01:00PM BLOOD cTropnT-0.01

On discharge:
___ 07:05AM BLOOD WBC-7.2 RBC-4.89 Hgb-14.9 Hct-43.8 MCV-90 
MCH-30.4 MCHC-33.9 RDW-15.1 Plt ___
___ 07:05AM BLOOD Glucose-236* UreaN-21* Creat-1.2 Na-135 
K-4.1 Cl-99 HCO3-28 AnGap-12
___ 07:05AM BLOOD Calcium-8.8 Phos-3.0 Mg-2.___opplers ___
IMPRESSION:
1. No evidence of deep venous thrombosis in the right lower 
extremity.
2. Peroneal veins not seen. Moderate edema in the calf.
3. Cystic lesion in the right posterior popliteal fossa, 
presumably ___
cyst.
.
ECHO ___
The left atrium is moderately dilated. There is mild symmetric 
left ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. There is moderate regional left ventricular 
systolic dysfunction with severe hypokinesis of the inferior 
septum, inferior and anterior walls and mild dyskinesis of the 
apex. There is mild hypokinesis of the remaining segments with 
the anterior septum and anterolateral walls contracting best 
(LVEF = 25 %). The estimated cardiac index is depressed 
(<2.0L/min/m2). No masses or thrombi are seen in the left 
ventricle. Right ventricular chamber size is normal with focal 
hypokinesis of the apical free wall. The aortic valve leaflets 
(3) are moderately thickened. There is severe aortic valve 
stenosis (AoVA = 0.8 cm2). No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is an 
increased gradient across the mitral valve, but functional 
mitral stenosis is not suggested). Mild (1+) mitral 
regurgitation is seen (may be underestimated given the increased 
gradient with low cardiac index and lack of mitral stenosis). 
The pulmonary artery systolic pressure could not be determined. 
There is a trivial/physiologic pericardial effusion.
.
IMPRESSION: Severe aortic valve stenosis. Mild symmetric left 
ventricular hypertrophy with cavity enlargement and extensive 
regional systolic dysfunction c/w diffuse process (multivessel 
CAD, etc.). Mild mitral regurgitaiton.
Compared with the prior study (images reviewed) of ___, the 
severity of aortic valve stenosis has progressed (Doppler 
profile is much cleaner on the current study). The pleural 
effusion has resolved. The transmitral gradient is similar, but 
mitral stenosis is not suggested - suggesting the severity of 
mitral regurgitation may be UNDERestimated.
If clinically indicated, a TEE would be better able to estimate 
the severity of mitral regurgitation.  

 
Brief Hospital Course:
___ year old male with history of HTN, CAD, ischemic 
cardiomyopathy LVEF 30%, and mild AS admitted with progressive 
dyspnea related to CHF exacerbation.  
.
ACTIVE ISSUES
==============
# Acute on chronic congestive heart failure systolic 
dysfunction: Patient appeared volume overloaded on admission 
related to dietery indescression. LVEF 30% in ___ Repeat Echo 
demonstrated LVEF 25% with extensive systolic dysfunction. He 
was not on furosemide at home because it had made him very 
orthostatic. Here, he was diuresed with IV boluses of lasix 
(___) while holding home antihypertensives. This was 
complicated by mild orthostatic hypotension which has been a 
long standing problem related to diabetic neuropathy. Furosemide 
was not added to his regimen given orthostasis.  He will follow 
up with his PCP ___ ___ and cardiology on ___. Continued ACE.
.
# Aortic Stenosis: Echo in ___ shows mild AS with (valve area 
1.2-1.9cm2). Repeat echo showed worsening AS with valve area of 
0.8 cm2 corresponding to Severe Aortic stenosis. He was 
asymptomatic. Given worsening AS, consideration for AVR was 
recommended which he will discuss with his cardiologist. 
.
# Autonomic neuropathy: Patient is orthostatic at baseline which 
had limited diuretic therapy in the past. Pt continued on home 
midodrine and antihypertensives held during diuresis. 
.
# R>L peripheral edema: Patient reported that uneven swelling 
was new for him but ultrasound was negative for DVT.
.
INACTIVE ISSUES
==============
# CORONARIES: History of moderate 3vd, s/p stents to D1. Pt 
without active chest pain or ischemic changes on EKG; trop 
negative x 1. Continued on ASA 81 mg daily and pravastatin 40 mg 
daily.
.
# S/p Renal transplant: Continued on cyclosporine, home 
Cellcept, prednisone, and Qualaquin prn.  
.
# Diabetes mellitus: Continued on home Lantus 26 qAM with 
Humalog sliding scale.  Also continued on gabapentin for 
peripheral neuropathy.
  .  
# Left facial droop: Patient reports that he has had left facial 
droop since childhood. Denies history of stroke. Cranial nerve 
exam is otherwise unremarkable.  
.  
TRANSITION OF CARE
=================
After discharge:
- Patient will see PCP for volume status, blood pressure check.
- He will need evaluation for aortic valve repair
.
# Code: DNR/DNI.
.
# Emergency contact: ___ ___.
 
Medications on Admission:
Gabapentin 800 mg Tablet 1 tab qAM, 1 tab q4PM, 3 tabs qhs 
Cellcept 500 mg BID
Cyclosporine 100 mg BID
Rocaltrol 0.25 mcg daily
Midodrine 5 mg 4 tabs qAM, 3 tabs Qnoon, 2 tabs Qpm
Qualaquin 324 mg QHS PRN leg cramp
Lantus 26 mg QHS
Humalog sliding scale
Glucosamine 500 mg daily
Pravastatin 40 mg daily
Prednisone 5 mg daily
Aspirin 81 mg daily
Lisinopril 2 mg daily
 
Discharge Medications:
1. mycophenolate mofetil 500 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day).  
2. cyclosporine modified 100 mg Capsule Sig: One (1) Capsule PO 
Q12H (every 12 hours).  
3. calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
4. midodrine 5 mg Tablet Sig: Four (4) Tablet PO QAM (once a day 
(in the morning)).  
5. midodrine 5 mg Tablet Sig: Three (3) Tablet PO NOON (At 
Noon).  
6. quinine sulfate 324 mg Capsule Sig: One (1) Capsule PO QHS 
(once a day (at bedtime)) as needed for leg cramp.  
7. pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
8. prednisone 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. acetaminophen 500 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed for pain.  
11. insulin lispro  Subcutaneous
12. insulin glargine  Subcutaneous
13. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO QAM (once 
a day (in the morning)).  
14. gabapentin 400 mg Capsule Sig: Two (2) Capsule PO Q4PM ().  
15. gabapentin 400 mg Capsule Sig: Four (4) Capsule PO HS (at 
bedtime).  
16. fluticasone 50 mcg/Actuation Spray, Suspension Sig: One (1) 
Spray Nasal BID (2 times a day).  
17. Glucosamine 500 mg Tablet Sig: One (1) Tablet PO once a day. 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute on chronic congestive heart failure
Severe Aortic Stenosis
Orthostatic hypotension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital for shortness of breath.  You 
were given medications to remove excess fluid from your heart 
and lungs with improvement of your symptoms.  While you were 
having fluid removed you developed dizziness with standing, 
which you have had multiple times in the past.  However, your 
dizziness had resolved prior to your discharge.  Your oxygen 
levels were within expected normal range on walking and at rest. 
 
.
You underwent a repeat echocardiogram which showed your known 
aortic stenosis is worse.  You will need an outpatient 
evaluation for a possible surgical aortic valve repair.  Please 
follow up with your cardiologist, Dr. ___ this.
.
No changes have been made to your home medications.
.
Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___